data/core_train_final.csv
"[H:20][CH2:21]Cl.[Cl:10]>>[H:20][Cl:10].[CH2:21]Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH:21](C=C)C1CCCCC1.[Br:10]>>[H:20][Br:10].C=C[CH:21]C1CCCCC1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH2:21]C1CC1C.[Cl:10]>>[H:20][Cl:10].CC1CC1[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)[C:10]1CCCCC1.[Br:20][Br:21]>>CC(C)[C:10]1(CCCCC1)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C1CC[CH:10]CC1.C1CCC(CC1)C(=O)[O:21][Br:20]>>C1CCC(CC1)C(=O)[O:21].C1CC[CH:10](CC1)[Br:20] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:5][C:3]([CH3:4])([CH3:6])[CH2:2][CH3:1].[Cl:7]>>[H:5][Cl:7].[CH3:1][CH2:2][C:3]([CH3:4])[CH3:6] 7-5,7;3,5-3;3,5-5,7",Room Temperature,Propagation,abstraction
"[H:5][C:4](=[C:2]([H:3])[CH3:1])[H:6].[CH:8]1=[CH:7][CH:12]=[C:11][CH:10]=[CH:9]1>>[H:3][C:2]([CH3:1])[C:4]([H:5])([H:6])[C:11]1=[CH:12][CH:7]=[CH:8][CH:9]=[CH:10]1 11-11,4;4,2-2;2,4-4,11",Room Temperature,Propagation,addition
"CC1(CC[CH:10]C=C1)C.[Br:20][Br:21]>>CC1(CC[CH:10](C=C1)[Br:20])C.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][Br:21].C1CC[C:10](CC1)CBr>>[H:20][C:10]1(CCCCC1)CBr.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1=CC=C(C=C1)[CH:21]=[CH2:20].CC1=CC=C(C=C1)[CH:10]CC(C)(C)C#N>>CC1=CC=C(C=C1)[CH:21][CH2:20][CH:10](CC(C)(C)C#N)C2=CC=C(C=C2)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)(C)C1=C[CH:10]C(=O)CC1.[O:20][O]>>CC(C)(C)C1=C[CH:10](C(=O)CC1)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](C)(CCCO[O:10])C=O>>[H:20][O:10]OCCC[C:21](C)C=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCOC([C:10](C(CCC[C:20]#[C:21]C)=O)C)=O>>CCOC([C:10]1(C(CCC[C:20]1=[C:21]C)=O)C)=O 10-10,20;20-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(=O)O[CH:21]=[CH2:20].CC(=O)O[CH:10]CC(CCN(C)CCN(C)C)OC(=O)C>>CC(=O)O[CH:21][CH2:20][CH:10](CC(CCN(C)CCN(C)C)OC(=O)C)OC(=O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][CH2:21]OC1=C(/C(CC2)=[C:10]/C(C)(C)OCC3=CC=CC=C3)C2=C([O])C(OC)=C1OC>>[CH2:21]OC4=C(/C(CC5)=[C:10]([H:20])/C(C)(C)OCC6=CC=CC=C6)C5=C([O])C(OC)=C4OC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(CC(C[CH:10]C#N)C#N)C#N.[CH2:20]=[CH:21]C#N>>CCC(CC(C[CH:10]([CH2:20][CH:21]C#N)C#N)C#N)C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC1CC[CH:10]C=C1.[Br:20][Br:21]>>CC1CC[CH:10](C=C1)[Br:20].[Br:21] 21,20-10,20;10-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:17][C:16]([H:18])[CH:15]=[CH:14][CH2:13][S:12][C:2]([CH3:1])([CH3:19])[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][CH3:11].[H:24][C:23](=[CH:22][CH:21]=[CH2:20])[H:25]>>[H:24][C:23]([H:25])[CH:22]=[CH:21][CH2:20][C:16]([H:17])([H:18])[CH:15]=[CH:14][CH2:13][S:12][C:2]([CH3:1])([CH3:19])[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][CH3:11] 16-16,20; 20,21-16,20; 20,21-21,22; 22,23-21,22; 22,23-23",Room Temperature,Propagation,addition
"C1CC=C[CH:20]C1.[Br:10][Br:11]>>C1CC=C[CH:20](C1)[Br:10].[Br:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"CCCC(C[CH:10]C(=O)C)C(=O)C.CC(=O)[CH:21]=[CH2:20]>>CCCC(C[CH:10]([CH2:20][CH:21]C(=O)C)C(=O)C)C(=O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C[CH:20]C(C)C.[Cl:10][Cl:11]>>CC(C)[CH:20](C)[Cl:10].[Cl:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"[H:9][C:7]([H:10])([CH3:8])[CH2:6][CH2:5][C:2]([CH3:1])([CH3:3])[CH3:4].[Cl:11]>>[H:9][C:7]([CH3:8])[CH2:6][CH2:5][C:2]([CH3:1])([CH3:3])[CH3:4].[H:10][Cl:11] 11-11,10;10,7-11,10;10,7-7",Room Temperature,Propagation,abstraction
"CC(C)[C:10](C)C.[Cl:20][Cl:21]>>CC(C)[C:10](C)(C)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2:20]C1=C(C=CC=C1)Br.[Br:10][Br:11]>>C1=CC(=C(C=C1)Br)[CH2:20][Br:10].[Br:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"C2=CC=CC=C2[C:21](C3=CC=CC=C3)([Cl:20])C1=CC=CC=C1.[Na:1]>>C2=CC=CC=C2[C:21](C3=CC=CC=C3)C2=CC=CC=C2.[Na:1][Cl:20] 1-1,20;20,21-1,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][C:2]1=[C:3]([CH2:4][CH2:5][CH2:6][CH2:7]1)[CH3:8].[Br:9][Br:10].[He]>>[He].[CH3:1][C:2]1=[C:3]([CH2:4][CH2:5][CH2:6][CH2:7]1)[CH3:8].[Br:9].[Br:10] 10,9-10;10,9-9",Light,Initiation,homolyze
"CC(C)(C[C:21](C)(C#N)[N:20]=[N:10])OC>>C[C:21](CC(C)(C)OC)C#N.[N:20]#[N:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC(C)C.[Br:20][Br:21].[He]>>[He].CC(C)C.[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[H:1][C:2]([H:3])([H:7])[O:4][O:5][H:6].[H:8][O:9]>>[H:1][C:2]([H:3])([H:7])[O:4][O:5].[H:8][O:9][H:6] 9-9,6; 5,6-9,6; 5,6-5",Room Temperature,Propagation,abstraction
